US06294541B1
(i) 6-Cyclopentylamino-8-cyclopropyl-3,7-dihydro-3-propyl-2H-purine-2-thione
5.33 g (20 mmoles) of 8-cyclopropyl-3-n-propyl-2,6-dithioxantine and 42 ml of cyclopentylamine were heated in a 450 ml pressure reactor to 150° C. (50 psi) with the exclusion of air. After 20 hours the solution was transferred with methanol to a round bottom flask and evaporated in vacuo to dryness. The residue is treated with 60 ml of water and 5N HCl to obtain a pH of 2. The suspension is neutralized with bicarbonate to pH 7, the solid collected, washed, dried, suspended in refluxing acetone and collected again: 5.98 g of thioisoguanine with mp 274-6° C. (decomp).

reactant | 8-cyclopropyl-3-n-propyl-2,6-dithioxantine | 20 mmoles, 5.33 g | C1(CC1)C1=NC=2N(C(NC(C2N1)=S)=S)CCC | C11H14N4S2
reactant | cyclopentylamine | 42 ml | C1(CCCC1)N | C5H11N
reactant | bicarbonate | C([O-])(O)=O
solvent | methanol | CO | CH4O
product | 6-Cyclopentylamino-8-cyclopropyl-3,7-dihydro-3-propyl-2H-purine-2-thione | C1(CCCC1)NC=1C=2NC(=NC2N(C(N1)=S)CCC)C1CC1 | C16H23N5S
